US05814648
To a mixture of 3-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)-2-fluorophenyl]-2-propyn-1-ol (1.41 g, 4.8 mmol), N,O-bis(tert-butoxycarbonyl)hydroxylamine (1.11 g, 4.8 mmol) and triphenylphosphine (1.63 g, 6.2 mmol) in dry tetrahydrofuran (350 ml) was added dropwise a solution of diethyl azodicarboxylate (1.08 g, 6.2 mmol) in dry tetrahydrofuran (15 ml). The reaction mixture was stirred for 2 hours and volatiles removed by evaporation. The residue was purified by column chromatography on silica gel eluting with ethyl acetate-hexane (=1:10) to afford N,O-di(tert-butoxycarbonyl)-[3-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)-2-fluoro-phenyl]-2-propyn-1-yl]hydroxylamine (1.64 g, 67%) as pale yellow plates.

reactant | 3-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)-2-fluorophenyl]-2-propyn-1-ol | 4.8 mmol, 1.41 g | C1(=CC=CC=C1)[C@H]1N=C(OC1)C=1C(=C(C=CC1)C#CCO)F | C18H14FNO2
reactant | N,O-bis(tert-butoxycarbonyl)hydroxylamine | 4.8 mmol, 1.11 g | C(C)(C)(C)OC(=O)NOC(=O)OC(C)(C)C | C10H19NO5
reactant | triphenylphosphine | 6.2 mmol, 1.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.2 mmol, 1.08 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N,O-di(tert-butoxycarbonyl)-[3-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)-2-fluoro-phenyl]-2-propyn-1-yl]hydroxylamine | 1.64 g, 67% | C(C)(C)(C)OC(=O)N(OC(=O)OC(C)(C)C)CC#CC1=C(C(=CC=C1)C=1OC[C@H](N1)C1=CC=CC=C1)F | C28H31FN2O6
